US04304728
Ethyl 6-(4-chlorophenyl)-4-oxo-4H-pyran-2-carboxylate
A solution of ethyl 6-(4-chlorophenyl)-2,4,6-trioxohexanoate (0.26 g) in cold concentrated sulphuric acid (3 ml) was stirred for 3 hours at 0°-5° C. then poured on to ice (10 g). The solid product was recrystallised from ethanol-water to give the title product identical (mp, IR and NMR, and thin-layer chromatography) with the product described in Example 12.

reactant | ethyl 6-(4-chlorophenyl)-2,4,6-trioxohexanoate | 0.26 g | ClC1=CC=C(C=C1)C(CC(CC(C(=O)OCC)=O)=O)=O | C14H13ClO5
solvent | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | Ethyl 6-(4-chlorophenyl)-4-oxo-4H-pyran-2-carboxylate | ClC1=CC=C(C=C1)C1=CC(C=C(O1)C(=O)OCC)=O | C14H11ClO4
